US06448242B1
Potassium carbonate (0.50 g; 3.6 mmol) was added to a solution in water (1 ml) of 1,1′-trimethylenedi(hexahydro-1,4-diazepine) tetrahydrochloride (540 mg; 1.4 mmol) synthesized in accordance with the same process as in Referential Example 1. The mixture was stirred at room temperature for 15 minutes and concentrated under reduced pressure. A process of adding ethanol (10 ml) to the residue and concentrating the mixture under reduced pressure was conducted twice. The resultant concentrated residue was purified by column chromatography on silica gel, thereby obtaining 323 mg (yield: 96%) of 1,1′-trimethylenedi(hexahydro-1,4-diazepine) as a colorless oil.

reactant | Potassium carbonate | 3.6 mmol, 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1′-trimethylenedi(hexahydro-1,4-diazepine) tetrahydrochloride | 1.4 mmol, 540 mg | Cl.Cl.Cl.Cl.N1(CCNCCC1)CCCN1CCNCCC1
solvent | water | 1 ml | O | H2O
product | 1,1′-trimethylenedi(hexahydro-1,4-diazepine) | 323 mg, yield: 96% | N1(CCNCCC1)CCCN1CCNCCC1 | C13H28N4
